US07825278B2
5-(2-Chlorobenzoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione.
A solution of 4-(dimethylamino)pyridine (33.96 g; 278 mmol) and 2,2-dimethyl-1,3-dioxane-4,6-dione (20.0 g, 139 mmol) in 50 mL of CH2Cl2 was cooled in an ice-salt bath to −10° C. A solution of 2-chlorobenzoyl chloride (29.2 g, 167 mmol) in 20 mL of CH2Cl2 was added dropwise via addition funnel over 1 h. After stirring cold for 1 h, the reaction was allowed to warm to rt and stirred for an additional 3 h. The resulting yellow-orange solution was then extracted with an aq. 10% HCl solution (200 mL) and 200 mL of brine. After drying with MgSO4, the mixture was filtered and the solvent was removed in vacuo. The resulting orange oil was triturated with hexanes (3×50 mL), affording the title compound (20 g) as a yellow solid.

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 139 mmol, 20.0 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 2-chlorobenzoyl chloride | 167 mmol, 29.2 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
catalyst | 4-(dimethylamino)pyridine | 278 mmol, 33.96 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Chlorobenzoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 20 g | ClC1=C(C(=O)C2C(OC(OC2=O)(C)C)=O)C=CC=C1 | C13H11ClO5
